US07608633B2
C. 1-[3-(4-Decyloxyphenoxy)-2-oxopropyl]indole-5-carboxylic acid
50 mg (0.096 mmol) tert-butyl-1-[3-(4-decyloxyphenoxy)-2-oxopropyl]indole-5-carboxylate are dissolved in 15 ml absolute dichloromethane and mixed with 0.82 g (7.19 mmol) trifluoroacetic acid. Having stirred at room temperature for 4 hours, the batch is concentrated to dryness on the rotary evaporator. Three admixtures with 10 ml of a mixture of petroleum ether and ethyl acetate (4:1) each and respective concentration to dryness on the rotary evaporator leave as a crude product a solid which is purified on an RP-HPLC column by means of chromatography (stationary phase: cromasil, flow agent: acetonitrile/water 90:10).

reactant | tert-butyl-1-[3-(4-decyloxyphenoxy)-2-oxopropyl]indole-5-carboxylate | 0.096 mmol, 50 mg | C(C)(C)(C)OC(=O)C=1C=C2C=CN(C2=CC1)CC(COC1=CC=C(C=C1)OCCCCCCCCCC)=O | C32H43NO5
reactant | trifluoroacetic acid | 7.19 mmol, 0.82 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-[3-(4-Decyloxyphenoxy)-2-oxopropyl]indole-5-carboxylic acid | C(CCCCCCCCC)OC1=CC=C(OCC(CN2C=CC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C28H35NO5
